US07259183B2
(4-trifluoromethoxy-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amine was synthesized in analogy to the above procedure using 1.232 g 4-(trifluoromethoxy)benzaldehyde (6.48 mmol) and 0.817 g 2-(3-trifluoromethyl-phenyl)-ethylamine (4.32 mmol), 1.31 g (83%) of a light yellow liquid were obtained. MS: 364 (M+H)+.

reactant | 4-(trifluoromethoxy)benzaldehyde | 6.48 mmol, 1.232 g | FC(OC1=CC=C(C=O)C=C1)(F)F | C8H5F3O2
reactant | 2-(3-trifluoromethyl-phenyl)-ethylamine | 4.32 mmol, 0.817 g | FC(C=1C=C(C=CC1)CCN)(F)F | C9H10F3N
product | (4-trifluoromethoxy-benzyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amine | FC(OC1=CC=C(CNCCC2=CC(=CC=C2)C(F)(F)F)C=C1)(F)F | C17H15F6NO
